### PR TITLE
feat(Analysis.Complex): Borel-Caratheodory theorem, part of PrimeNumberTheoremAnd+ upstreaming

### PR DESCRIPTION
**Pull request by maksym-radziwill**
This PR adds a proof of the [Borel-Caratheodory theorem](https://en.wikipedia.org/wiki/Borel%E2%80%93Carath%C3%A9odory_theorem) following the [blueprint](https://alexkontorovich.github.io/PrimeNumberTheoremAnd/web/sect0004.html#a0000000021) of the [PrimeNumberTheoremAnd+](https://github.com/AlexKontorovich/PrimeNumberTheoremAnd/) project. This is part of the ongoing effort to upstream the StrongPNT version of the PrimeNumberTheoremAnd+ project into mathlib4.

See also the [Zullip discussion](https://leanprover.zulipchat.com/#narrow/channel/423402-PrimeNumberTheorem.2B/topic/Merging.20with.20Morph/with/544246433)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by wwylele** [comment]
Maybe also update the 1000+ theorem list? https://github.com/leanprover-community/mathlib4/blob/06d95e5f5311594940c0c3dff5381fabe4fcabe7/docs/1000.yaml#L2264 (the statement is slightly different from the wikipedia version, but it looks trivial to convert between them)

File: Mathlib/Analysis/Complex/BorelCaratheodory.lean [hunk 1]
```diff
@@ -0,0 +1,363 @@
...
+
+## Tags
+
+Borel-Caratheodory, borel, caratheodory, complex, analytic, prime number theorem
+
+-/
+
+/-- Given `f`, the function `divRemovable_zero f` defines a function equal
+to `f z / z` for `z ≠ 0` and equal to `deriv f 0` for `z = 0`. -/
+noncomputable abbrev divRemovable_zero (f : ℂ → ℂ) : ℂ → ℂ :=
```
Comment (wwylele) [inline Mathlib/Analysis/Complex/BorelCaratheodory.lean]: I think the naming convention is using camelCase for the entire name of a def, so this would be `divRemovableZero`. Not sure if there is a better name

File: Mathlib/Analysis/Complex/BorelCaratheodory.lean [hunk 2]
```diff
@@ -0,0 +1,363 @@
...
+and the only reason to include such a conclusion, is because this form of
+the conclusion is used twice in the proof of Borel-Caratheodory.
+
+Finally in `borelCaratheodory_closedBall` we prove the Borel-Caratheodory
+theorem. The proof of Borel-Caratheodory follows the blueprint laid out in
+the StrongPNT project [kontorovich2025].
+
+## References
+
+* [Alex Kontorovich et. al, *PrimeNumberTheoremAnd*][kontorovich2025]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Complex/BorelCaratheodory.lean]:
```suggestion
* [Alex Kontorovich et al., *PrimeNumberTheoremAnd*][kontorovich2025]
```

**Comment by maksym-radziwill** [comment]
Thanks @Ruben-VandeVelde , @wwylele I addressed your comments (changed divRemovable_zero -> divRemovableZero, and "et. al" -> "et al."). I also added a version of Borel-Caratheodory that does not assume vanishing at zero and matches the statement on Wikipedia, this is borelCaratheodory_closedBall' in the file.

File: Mathlib/Analysis/Complex/BorelCaratheodory.lean (hunk 2 above)
Comment (maksym-radziwill) [reply Mathlib/Analysis/Complex/BorelCaratheodory.lean]: Done

File: Mathlib/Analysis/Complex/BorelCaratheodory.lean (hunk 1 above)
Comment (maksym-radziwill) [reply Mathlib/Analysis/Complex/BorelCaratheodory.lean]: Done

File: Mathlib/Analysis/Complex/BorelCaratheodory.lean [hunk 3]
```diff
@@ -0,0 +1,414 @@
...
+## Tags
+
+Borel-Caratheodory, borel, caratheodory, complex, analytic, prime number theorem
+
+-/
+
+/-- Given `f`, the function `divRemovableZero f` defines a function equal
+to `f z / z` for `z ≠ 0` and equal to `deriv f 0` for `z = 0`. -/
+noncomputable abbrev divRemovableZero (f : ℂ → ℂ) : ℂ → ℂ :=
+  Function.update (fun z ↦ (f z) / z) 0 ((deriv f) 0)
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/BorelCaratheodory.lean:111]: To me this seems overly specific. There are at least two ways that I think it can (and maybe should) be generalized:

1. I really think you should generalize away from `z = 0` and allow the replacement to occur at other points.
2. You could replace with a power of `z` in the denominator, and `iteratedDeriv`. then the lemmas would be about `MeromorphicOrderAt` instead of `f 0 = 0`.

File: Mathlib/Analysis/Complex/BorelCaratheodory.lean [hunk 4]
```diff
@@ -0,0 +1,414 @@
...
+
+/-- For `z ≠ 0`, `divRemovableZero f z` is equal to `f z / z`. -/
+lemma divRemovableZero_of_ne_zero {z : ℂ} (f : ℂ → ℂ)
+    (z_ne_0 : z ≠ 0) : divRemovableZero f z = f z / z := by
+  unfold divRemovableZero; apply Function.update_of_ne z_ne_0
+
+/-- If `f` is analytic on an open set `s` and `f 0 = 0` then `f z / z` is also
+analytic on `s`. -/
+lemma AnalyticOn.divRemovableZero {f : ℂ → ℂ} {s : Set ℂ}
+    (sInNhds0 : s ∈ nhds (0 : ℂ)) (zero : f 0 = 0) (o : IsOpen s)
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/BorelCaratheodory.lean:121]: I think the type ascription `(0 : ℂ)` is probably redundant, and you should open the topology namespace so you can write `𝓝 0`.

Also, the `IsOpen s` hypothesis should not be necessary.

File: Mathlib/Analysis/Complex/BorelCaratheodory.lean [hunk 5]
```diff
@@ -0,0 +1,414 @@
...
+    (analytic : AnalyticOn ℂ f s) : AnalyticOn ℂ (divRemovableZero f) s := by
+  rw [Complex.analyticOn_iff_differentiableOn o]
+  rw [←(Complex.differentiableOn_compl_singleton_and_continuousAt_iff sInNhds0)]
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/BorelCaratheodory.lean:124]: I think you are working way too hard to prove this. We already have some machinery around meromorphic functions to do this. Indeed, there's [MeromorphicAt.analyticAt](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Meromorphic/Order.html#MeromorphicAt.analyticAt), and you can easily show that your `divRemovableZero f` function is meromorphic at zero using [MeromorphicAt.update](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Meromorphic/Basic.html#MeromorphicAt.update). Continuity at zero follows from the definition of the derivative.

File: Mathlib/Analysis/Complex/BorelCaratheodory.lean [hunk 6]
```diff
@@ -0,0 +1,414 @@
...
+         ((Complex.analyticOn_iff_differentiableOn o).mp analytic) sInNhds0)
+    have T : (fun (x : ℂ) ↦ (f x - 0) / (x - 0)) = (fun (x : ℂ) ↦ (f x) / x) := by
+      funext x; rw [sub_zero, sub_zero]
+    rw [zero, T] at U; exact U
+
+/-- If `f` is analytic on `|z| ≤ R` and `f 0 = 0` then `f z / z` is analytic in
+`|z| ≤ R`. -/
+lemma AnalyticOn.divRemovableZero_closedBall {f : ℂ → ℂ} {R : ℝ} (Rpos : 0 < R)
+    (analytic : AnalyticOn ℂ f (Metric.closedBall 0 R)) (zero : f 0 = 0) :
+    AnalyticOn ℂ (_root_.divRemovableZero f) (Metric.closedBall (0 : ℂ) R) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/BorelCaratheodory.lean:153]: This would follow trivially from the previous theorem if you didn't require `s` to be open in the previous one.

File: Mathlib/Analysis/Complex/BorelCaratheodory.lean [hunk 7]
```diff
@@ -0,0 +1,414 @@
...
+  have sInNhds0 : Metric.closedBall 0 R ∈ nhds 0 := by
+    apply Metric.closedBall_mem_nhds; exact Rpos
+
+  exact AnalyticOn.div
+    (AnalyticOn.divRemovableZero_closedBall Rpos analytic zero)
+    (AnalyticOn.sub (analyticOn_const) analytic) nonzero
+
+/-- If `x.re ≤ M` then `|x| ≤ |2 * M - x|` -/
+lemma Complex.norm_le_norm_two_mul_sub_of_re_le {M : ℝ} {x : ℂ}
+    (Mpos : 0 < M) (hyp_re_x : x.re ≤ M) : ‖x‖ ≤ ‖2 * M - x‖ := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/BorelCaratheodory.lean:238]: this is a generic inequality for complex numbers and doesn't belong in this file.

File: Mathlib/Analysis/Complex/BorelCaratheodory.lean [hunk 8]
```diff
@@ -0,0 +1,414 @@
...
+             mul_le_mul_iff_left₀, mul_le_mul_iff_left₀ Mpos]
+  exact hyp_re_x
+
+/-- Specialization of the maximum modulus to `|z| ≤ R`: if `f` is analytic
+on `|z| ≤ R` and `|f z| ≤ C` for all `|z| = R` then for any `r ≤ R` and
+for all `|z| ≤ r`, `|f z| ≤ C` -/
+lemma AnalyticOn.norm_le_of_norm_le_on_sphere {f : ℂ → ℂ} {C R r : ℝ}
+    (analytic : AnalyticOn ℂ f (Metric.closedBall 0 R))
+    (hyp_r : r ≤ R) (cond : ∀ z ∈ Metric.sphere 0 r, ‖f z‖ ≤ C)
+    (w : ℂ) (wInS : w ∈ Metric.closedBall 0 r) : ‖f w‖ ≤ C := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/BorelCaratheodory.lean:258]: There's no reason to specialize this to balls centered at the origin. Any ball will do.

File: Mathlib/Analysis/Complex/BorelCaratheodory.lean [hunk 9]
```diff
@@ -0,0 +1,414 @@
...
+    (realPartBounded : ∀ z ∈ Metric.closedBall 0 R, (f z).re ≤ M)
+    (hyp_r : r < R) (hyp_z : z ∈ Metric.closedBall 0 r)
+    : ‖f z‖ ≤ (2 * M * r) / (R - r) := by
+
+  have zInSFunc : ∀ r ≤ R, ∀ z ∈ Metric.sphere (0 : ℂ) r, z ∈ Metric.closedBall (0 : ℂ) R := by
+    intro r hyp_r z hyp_z
+    apply Set.mem_of_mem_of_subset (s := Metric.sphere 0 r) hyp_z
+    · calc Metric.sphere (0 : ℂ) r
+        _ ⊆ Metric.closedBall (0 : ℂ) r := Metric.sphere_subset_closedBall
+        _ ⊆ Metric.closedBall (0 : ℂ) R := Metric.closedBall_subset_closedBall hyp_r
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/BorelCaratheodory.lean:283]: You're split the proofs into all these `have` statements, but give a proof of this length, you should definitely be adding comments to the source explaining what you are doing.

Moreover, I highly suspect that you should simply move some of these statements into their own lemmas, or else they can be drastically simplified. For example, this first one can be simplified to:
```lean
open Metric in
example {R : ℝ} : ∀ r ≤ R, sphere (0 : ℂ) r ⊆ Metric.closedBall (0 : ℂ) R :=
  fun _ h ↦ sphere_subset_closedBall.trans <| closedBall_subset_closedBall h
```
hence you can probably just inline it. If you need it multiple times, then you can leave this `have`.

**Review by j-loreaux — COMMENTED** [review]
Here's a first round of comments. At the current stage, this still needs a lot of work. I would probably also factor out the work about `divRemovableZero` into a separate PR, but if you want to hash out the details here first, that's fine.

File: Mathlib/Analysis/Complex/BorelCaratheodory.lean (hunk 5 above)
Comment (maksym-radziwill) [reply Mathlib/Analysis/Complex/BorelCaratheodory.lean:124]: Notice that the conclusion is about _AnalyticOn_ . Is there a function in the library that allows to pass from having AnalyticAt at every point in the set to AnalyticOn, on the set? This was the main source of complications in the proofs of these two lemmas...

Comment (grunweg) [reply Mathlib/Analysis/Complex/BorelCaratheodory.lean:124]: If `s` is open, you can do this... but in that case, you probably want to prove a lemma about `AnalyticAt` first.

Comment (maksym-radziwill) [reply Mathlib/Analysis/Complex/BorelCaratheodory.lean:124]: Sure, but then I cannot remove the IsOpen assumption as was suggested, and then the proof of the next Lemma remains complicated.

Comment (grunweg) [reply Mathlib/Analysis/Complex/BorelCaratheodory.lean:124]: How about taking one step at a time, a proving a lemma about AnalyticAt first with a clean proof. Going with MeromorphicAt (as said above) should be significantly shorter.

FWIW, I don't agree with "cannot remove the IsOpen assumption": I see a clear path assuming `IsOpen s`; I trust j-loreaux that the hypothesis can be removed; I need to think for a moment how to formalise it the best way (as I don't work with analytic functions every day).

Comment (j-loreaux) [reply Mathlib/Analysis/Complex/BorelCaratheodory.lean:124]: The point is that `AnalyticOn` doesn't care what happens outside of `s` and we only have to fix analyticity of the updated function *at zero*, which is in the interior of `s`, so everything works without issue.

And besides, `AnalyticAt` implies `AnalyticWithinAt`.

**Comment by maksym-radziwill** [comment]
@j-loreaux @grunweg Since the Schwarz Lemma is already in mathlib4 there might be a way to significantly shorten the code. I will rewrite from scratch and send a new PR for Borel-Caratheodory.
